US05047411
To a solution of 2-[4-(3-methylthioureido)benzyl]pyridine (4.0 g) in chloroform (80 ml) was dropwise added the solution of bromine (0.9 ml) in chloroform (5 ml) at ambient temperature and the mixture was heated under reflux for 2.5 hours. The reaction mixture was added to 10% hydrochloric acid (60 ml) and the mixture was heated under reflux for 20 minutes. To the separated aqeuous layer was added a solution of ethyl acetate and tetrahydrofuran and the resultant solution was adjusted to pH 8 with potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The crude product obtained by concentration was purified by silica gel column chromatography eluting with a mixture of chloroform and ethyl acetate (4:1 V/V). The eluted fractions containing desired product were evaporated to give 6-[(2-pyridyl)methyl]-2-methylaminobenzothiazole (0.48 g).

reactant | 2-[4-(3-methylthioureido)benzyl]pyridine | 4.0 g | CNC(NC1=CC=C(CC2=NC=CC=C2)C=C1)=S | C14H15N3S
reactant | bromine | 0.9 ml | BrBr | Br2
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(2-pyridyl)methyl]-2-methylaminobenzothiazole | 0.48 g | N1=C(C=CC=C1)CC1=CC2=C(N=C(S2)NC)C=C1 | C14H13N3S
